US08455496B2
5-chloropyrazine-2-carbonyl chloride (2.13 gram, 12.05 mmol) and dimethylamine HCl salt (1.06 gram, 12.7 mmol) were suspended in dichloromethane (50 mL) with stirring. Triethylamine (5.04 mL, 36.2 mmol) in dichloromethane (25 mL) was added dropwise at 0° C. to the reaction mixture. The combined solution was warmed up to ambient temperature and stirred for 4 hours. The compound was diluted with dichloromethane, washed with 1N HCl, water, brine, dried (Na2SO4), filtered and concentrated. The crude product was purified by column chromatography (silica gel, gradient of 30 to 80% ethyl acetate in heptane) to provide desired 5-chloro-N,N-dimethylpyrazine-2-carboxamide (SM-1: 2.24 g, 85%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.74 (d, J=1.37 Hz, 1H) 8.53 (d, J=1.37 Hz, 1H) 3.15 (s, 3H) 3.12 (s, 3H)

reactant | 5-chloropyrazine-2-carbonyl chloride | 12.05 mmol, 2.13 gram | ClC=1N=CC(=NC1)C(=O)Cl | C5H2Cl2N2O
reactant | dimethylamine HCl salt | 12.7 mmol, 1.06 gram | Cl.CNC
reactant | Triethylamine | 36.2 mmol, 5.04 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 5-chloro-N,N-dimethylpyrazine-2-carboxamide | 2.24 g, 85% | ClC=1N=CC(=NC1)C(=O)N(C)C | C7H8ClN3O
